US08859580B2
(2R,6S)-2,2,2-Trifluoro-1-(10-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone
Trifluoroacetic anhydride (5.0 mL) is added to a solution of the hydrobromic acid salt of (2R,6S)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-ol (5.0 g) and triethylamine (5.5 mL) in dichloromethane (50 mL) chilled in an ice bath. The resulting solution is stirred at ambient temperature overnight. Then, water is added, the resulting mixture is stirred for an additional 15 min, and the organic phase is separated. The organic phase is washed with water and brine, dried (Na2SO4), and the solvent is evaporated. The residue is purified by chromatography on silica gel (ethyl acetate/cyclohexane 1:4) to give the product as a foam-like solid.

reactant | Trifluoroacetic anhydride | 5.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrobromic acid | Br | BrH
reactant | (2R,6S)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-ol | 5.0 g | C[C@@]12C3=C(C[C@@H](NCC1)C2(C)C)C(=CC=C3)O | C15H21NO
reactant | triethylamine | 5.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2R,6S)-2,2,2-Trifluoro-1-(10-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3O)(F)F | C17H20F3NO2
